US07304062B2
4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyric acid
A 12-L 3-neck round-bottom flask was equipped with an overhead air-driven stirrer apparatus, condenser, nitrogen inlet, thermometer/thermocouple, and heating mantle. The flask was charged with ethyl acetate (450 mL) and 21% (wt.) sodium ethoxide in ethanol solution (3318 mL, 8.87 moles, 2 eq). The resulting mixture was heated to reflux under a nitrogen atmosphere and maintained at reflux for 30 min. The mixture was then allowed to cool slightly below reflux, and 4-(4-hydroxyphenyl)butyric acid (800 g, 4.43 moles) was added. The flask contents were re-heated to reflux for 30 min, at which point ethyl 2-bromoisobutyrate (EBIB, 1954 mL, 13.32 moles, 3.0 eqs.) was added. After 1 h at reflux, the flask was equipped with a 2-L addition funnel, which was charged sodium ethoxide in ethanol solution (1660 mL, 4.43 moles, 1 eq.). The sodium ethoxide solution was added dropwise to the refluxing reaction over 1 h. After an additional 30 min at reflux, HPLC analysis showed the reaction was complete. The heat source was removed and the flask contents were cooled to 5-10° C. and then transferred to a 22-L bottom-outlet flask. While stirring, the mixture was quenched with dilute phosphoric acid (6000 mL), transferred to a 20-L Buchi flask, and concentrated in vacuo to remove ethanol. The resulting aqueous mixture of crystals and excess EBIB was refrigerated overnight. The crystals were then filtered and washed with water (2000 mL). The solids were removed from the funnel and placed in a 20-L Buchi flask equipped with an overhead stirring apparatus. After the addition of water (2000 mL), the solids were stirred at ambient temperature for 30 min, then filtered and washed with heptane (2×2500 mL)). The solids were then placed in the vacuum oven and dried at 45° C. to afford the title compound as an off-white solid (1247 g, 95.5%). 1H NMR (500 MHz, CDCl3) δ 1.25 (t, 3 H), 1.57 (s, 6 H), 1.92 (m, 2 H), 2.35 (t, 2 H), 2.60 (t, 2 H), 4.23 (q, 2 H), 6.76 (d, 2 H), 7.03 (d, 2 H). 13C NMR (CDCl3) δ 14.1, 25.4, 26.3, 33.3, 34.2, 61.4, 119.4, 129.1, 134.9, 153.7, 174.4, 179.7.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 8.87 moles, 3318 mL, 2 eq | C(C)O | C2H6O
reactant | 4-(4-hydroxyphenyl)butyric acid | 4.43 moles, 800 g | OC1=CC=C(C=C1)CCCC(=O)O | C10H12O3
reactant | ethyl 2-bromoisobutyrate | 13.32 moles, 1954 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | ethanol | 4.43 moles, 1660 mL, 1 eq. | C(C)O | C2H6O
solvent | ethyl acetate | 450 mL | C(C)(=O)OCC | C4H8O2
product | 4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyric acid | 1247 g, 95.5% | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)O)C | C16H22O5
